US04818761
(a) Preparation of 4-bromo-o-phenylenediamine
A mixture of o-phenylenediamine (5 g, 46.2 mmol), acetic acid (40 ml) and acetic anhydride (10.4 g, 102 mmol) was cooled in ice water, to which a solution of bromine (8.9 g, 55.4 mmol) in acetic acid (10 ml) was added and the reaction mixture was stirred for 40 minutes at 50°-55° C. and then the mixture was poured into a solution of sodium hydrogensulfite (1.5 g) in ice water (300 ml).

reactant | o-phenylenediamine | 46.2 mmol, 5 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | acetic anhydride | 102 mmol, 10.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | bromine | 55.4 mmol, 8.9 g | BrBr | Br2
reactant | sodium hydrogensulfite | 1.5 g | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-o-phenylenediamine | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
